* Schematics Netlist *



R_R2         0 V0  1941  
V_V4         0 V- 15V
V_V3         V+ 0 15V
V_V2         $N_0001 0 DC 0 AC 1
+SIN 0 0.1 60Hz 0 0 0
D_D1         Va V0 D1N4002 
X_U1A         $N_0001 V0 V+ V- Va LM324
